US07705053B2
Production of 3-[(E)-2-(4-chlorophenyl)-vinyl]-4-methoxy-N-methyl-benzamide (Compound 2-2-8)
The captioned compound was synthesized from 3-[(E)-2-(4-chlorophenyl)vinyl]-4-methoxy-benzoic acid and methylamine hydrochloride in accordance with the same procedure as in the manufacturing method described in step G of Example 1-2-1.

reactant | 3-[(E)-2-(4-chlorophenyl)vinyl]-4-methoxy-benzoic acid | ClC1=CC=C(C=C1)/C=C/C=1C=C(C(=O)O)C=CC1OC | C16H13ClO3
reactant | methylamine hydrochloride | Cl.CN
product | 3-[(E)-2-(4-chlorophenyl)-vinyl]-4-methoxy-N-methyl-benzamide | ClC1=CC=C(C=C1)/C=C/C=1C=C(C(=O)NC)C=CC1OC | C17H16ClNO2
